US04289524
Preparation of N-(5,5,7,7-TETRAMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-YL)UREA
2-Amino-5,5,7,7-tetramethyl-4,5,6,7-tetrahydrobenzothiazole (0.3mole), potassium cyanate (0.3 mole) and concentrated acetic acid (90 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer. A mild exotherm is noted at the beginning of the reaction. Stirring is continued for a period of about 1 hour with no external heating. Water (90 ml) is added and the resulting mixture filtered. The filtered-off solids are recrystallized from methanol to yield the desired product N-(5,5,7,7-tetramethyl-4-5,6,7-tetrahydrobenzothiazol-2-yl)urea.

reactant | 2-Amino-5,5,7,7-tetramethyl-4,5,6,7-tetrahydrobenzothiazole | 0.3mole | NC=1SC2=C(N1)CC(CC2(C)C)(C)C | C11H18N2S
reactant | potassium cyanate | 0.3 mole | [O-]C#N.[K+]
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | Water | 90 ml | O | H2O
product | N-(5,5,7,7-TETRAMETHYL-4,5,6,7-TETRAHYDROBENZOTHIAZOL-2-YL)UREA | CC1(CC(C2=C(N=C(S2)NC(=O)N)C1)(C)C)C | C12H19N3OS
